US05985849
5-(5H-Dibenzo[a,d]cyclohepten-5-yl)-4-thiouridine;
monoanhydride of 5-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)-4-thiouridine-5'-phosphate with dichloromethylenebisphosphonic acid;

reactant | 5-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)-4-thiouridine-5'-phosphate | P(=O)(O)(O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=S)C(=C1)C1C2=C(CCC3=C1C=CC=C3)C=CC=C2)O)O | C24H25N2O8PS
reactant | dichloromethylenebisphosphonic acid | ClC(P(O)(O)=O)(P(O)(O)=O)Cl | CH4Cl2O6P2
product | 5-(5H-Dibenzo[a,d]cyclohepten-5-yl)-4-thiouridine | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)C=3C(NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C3)=O)=S | C24H22N2O5S
